US05556857
A solution composed of 1-(3-chloropropyl)-5-methoxy-3,4-dihydrocarbostyril (39.1 g, 0.15 mole), sodium iodide (33.5 g, 0.23 mole) and acetonitrile (200 ml) was heated under reflux for 1 hour and then cooled to room temperature. To this solution was further added 1-(3-chlorophenyl)-piperazine (39.3 g, 0.2 mole) and sodium carbonate (21 g, 0,2 mole). The mixture was further stirred for 4 hours and then filtered while it was hot. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography, made acidic with hydrochloric acid and then recrystallized from ethanol to give 31.2 g of 1-{3-[4-(3-chlorophenyl)-1-piperazinyl]propyl}-5-methoxy-3,4-dihydrocarbostyril hydrochloride as colorless flakes.

reactant | 1-(3-chloropropyl)-5-methoxy-3,4-dihydrocarbostyril | 0.15 mole, 39.1 g | ClCCCN1C(=O)CCC2=C(C=CC=C12)OC | C13H16ClNO2
reactant | sodium iodide | 0.23 mole, 33.5 g | [I-].[Na+]
reactant | 1-(3-chlorophenyl)-piperazine | 0.2 mole, 39.3 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
reactant | sodium carbonate | 0,2 mole, 21 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-{3-[4-(3-chlorophenyl)-1-piperazinyl]propyl}-5-methoxy-3,4-dihydrocarbostyril hydrochloride | 31.2 g | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1C(=O)CCC2=C(C=CC=C12)OC | InChI=1S/C23H28ClN3O2.ClH/c1-29-22-8-3-7-21-20(22)9-10-23(28)27(21)12-4-11-25-13-15-26(16-14-25)19-6-2-5-18(24)17-19;/h2-3,5-8,17H,4,9-16H2,1H3;1H
